US08492378B2
[4-[(2-cyanobenzyl)thio]phenyl]boronic acid
A suspension of (4-mercaptophenyl)boronic acid (0.847 g, 5.50 mmol), 2-(bromomethyl)benzonitrile (1.62 g, 8.25 mmol) and potassium carbonate (2.28 g, 16.5 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate, washed twice with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane/ethyl acetate (2/1) and recrystallized from hexane/ethyl acetate to give the title compound (903 mg, yield 61%) as colorless crystals.

reactant | (4-mercaptophenyl)boronic acid | 5.50 mmol, 0.847 g | SC1=CC=C(C=C1)B(O)O | C6H7BO2S
reactant | 2-(bromomethyl)benzonitrile | 8.25 mmol, 1.62 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | potassium carbonate | 16.5 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-[(2-cyanobenzyl)thio]phenyl]boronic acid | 903 mg, yield 61% | C(#N)C1=C(CSC2=CC=C(C=C2)B(O)O)C=CC=C1 | C14H12BNO2S
